Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, abdominal pain, nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per admitting hospitalist h/p:

___ is a ___ year old man who presents to the ED with
persistent nausea and vomiting in the setting of recently
diagnosed mono. He is from ___ and is currently a student 
at
___. His symptoms started 4 days ago. He initially had 
a
poor appetite, mild nausea, and exhaustion, which he thought
might be due to staying up late the night before. He notes that
he has been working hard at school and so was not sleeping much.
However the following day he felt "awful", with fever and
worsening malaise, and so he went to ___,
where he was given a zpack. He then went to stay with his aunt
who lives in ___ because he felt so unwell. He notes that
his fever went as high as 102 on that evening. 2 days ago he 
went
to partners urgent care, where he had a negative strep, negative
flu, and positive monospot test. At that time he was noted to
have oropharyngeal erythema, cervical LAD, and tachycardia. 
Since
that time he has had severe nausea and vomiting, unable to keep
food down, and also has now (today) noted onset of sore throat,
with some mild dysphagia (although he notes no difficulty
drinking water and denies dyspnea). He also endorses mildly
tender lymphadenopathy of the neck, under the jaw, and in the
groin. He had a headache, which is now somewhat improved. He 
also
has LUQ pain, which improved somewhat with Tylenol in the ED. At
home he had been alternating Tylenol and ibuprofen every ___
hours, staying well within the doseage recommended. He denied
sick contacts. No rash, bleeding, arthralgias, or mylagias. He
does not play sports. 

In the ED, the patient was afebrile. Initially tachy to 120 but
subsequently downtrended to ___ after fluids. Labs notable for
ALT/AST in 480s, alk phos 416, Tbili 4.4, DBili 2.8, WBC 14.5,
Plts 130, normal lactate. POCUS in ED without intraperitoneal
fluid. he received fluids, IV Tylenol, and Zofran. 

ROS: As per HPI, and 10 point ROS completed and otherwise
negative.

 
Past Medical History:
ADHD
lap appy ___
 
Social History:
___
Family History:
No GI or ID history that he is aware of
 
Physical Exam:
Admission exam:
Vital signs:
___ ___ Temp: 99.2 PO BP: 122/63 HR: 94 RR: 16 O2 sat: 97%
GENERAL: Alert and interactive, in visible discomfort (from
nausea)
EYES: ?trace icterus, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs, erythematous oropharynx (limited view due to patient 
active
nausea did not use tongue depressor)
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM palpated (although limited exam due to
patient's nausea), negative ___ sign 
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema
Lymph: shotty bilateral cervical, submandibular, submental,
axillary, and inguinal nodes, mildly tender
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, somewhat anxious

Discharge Exam: 
 ___ 1537 Temp: 98.7 PO BP: 119/72 HR: 92 RR: 18 O2 sat: 
98% O2 delivery: Ra 
Gen: Laying in bed, appears comfortable, in NAD
EYES: ?trace icterus persists, pupils equally round, reactive to 
light
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs, erythematous oropharynx. + cervical and suprclavicular LAD
CV: RRR, no murmurs rubs or gallops appreciated
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. Unable to appreciate splenomegaly on this 
writers exam 
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema, peripheral pulses intact
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, somewhat anxious

 
Pertinent Results:
Admission labs:

___ 07:40AM BLOOD WBC-14.5* RBC-4.78 Hgb-15.0 Hct-43.1 
MCV-90 MCH-31.4 MCHC-34.8 RDW-16.4* RDWSD-46.1 Plt ___
___ 07:40AM BLOOD Glucose-100 UreaN-12 Creat-1.1 Na-139 
K-4.2 Cl-100 HCO3-24 AnGap-15
___ 07:40AM BLOOD ALT-489* AST-486* LD(LDH)-669* 
AlkPhos-416* TotBili-4.4* DirBili-2.8* IndBili-1.6
___ 07:40AM BLOOD Albumin-4.0
___ 07:40AM BLOOD Hapto-<10*
___ 07:40AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS* IgM 
HAV-NEG
___ 09:45PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 09:45PM BLOOD ___
___ 09:45PM BLOOD HIV Ab-NEG
___ 09:45PM BLOOD Acetmnp-NEG
___ 07:40AM BLOOD HCV Ab-NEG
___ 05:43AM BLOOD HCV VL-PND
___ 05:43AM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-PND

Ucx: No growth final
Bcx: ___ No growth to date
EBV serologies:
   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    NEGATIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      POSITIVE BY EIA. 
      INTERPRETATION:  SUGGESTIVE OF RECENT INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

Discharge Labs:
___ 05:43AM BLOOD WBC-14.2* RBC-3.96* Hgb-13.6* Hct-36.9* 
MCV-93 MCH-34.3* MCHC-36.9 RDW-17.1* RDWSD-46.6* Plt ___
___ 05:43AM BLOOD Glucose-84 UreaN-8 Creat-1.0 Na-139 K-4.6 
Cl-100 HCO3-27 AnGap-12
___ 03:45PM BLOOD ALT-642* AST-597* LD(LDH)-590* 
AlkPhos-526* TotBili-3.4*
 
Brief Hospital Course:
___ who p/w mono, with splenomegaly and acute hepatitis.

#Infectious mononucleosis
#Acute hepatitis with mixed hepatocellular/cholestatic LFT
pattern
#LUQ pain, splenomegaly, nausea/vomiting
#Lymphocytosis, atypical lymphocytosis, diffuse
lymphadenopathy
#Mild thrombocytopenia
#Pharyngitis, mild dysphagia
The patient's presentation is mostly classic for mono, with 
constitutional symptoms, lymphadenopathy, LFT abnormalities, 
splenomegaly, pharyngitis, and lymphocytosis with atypical cells 
(presumed to be atypical lymphocytes). 
His LFT pattern is dramatic and somewhat unusual, given the 
degree of transaminase
elevation and the direct hyperbilirubinemia though not entirely 
unexpected.
His nausea improved with supportive care.

His LFTs had appeared to start to generally downtrend on the day 
of discharge HOWEVER Hepatology consultation recommended 2 
consecutive lab checks of clear improvement and his evening labs 
on the day of discharge did show slight worsening of many of the 
LFT values including the alk phos and the ALT as well as sight 
worsening of T ___. It was therefore recommended that the 
patient remain in house for continued monitoring but he declined 
in favor of close outpatient lab monitoring. Plan to repeat his 
labs at 1 and 5 days post discharge with careful monitoring for 
return symptoms.

In terms of diagnostic hepatitis serologies; HCV negative; HBV 
serologies suggest
immunity d/t natural infection, RUQUS final read c/w acute
hepatitis and spelnomegally. 
HIV (neg), EBV Abs (suggestive of recent infection), utox (neg), 
Tylenol (wnl), ___  (neg), ___ (neg), AMA (neg).
He was given a dose of APAP in the ED, and this was avoided 
therafter
Plan for outpatient PCP and hepatology follow up for further 
monitoring of symptoms.

#ADHD
patient takes Adderall XR 25 mg and short acting 10 mg, both on
PRN basis depending on work/class schedule. Not taking since
___ given GI symptoms.

Transitional Issues: 
[  ] Repeat liver labs at 1 and 5 days post discharge as per 
hepatology
[  ] PCP established for routine health care maintenance

>30 minutes were spent in discharge planning and coordination of 
care on the day of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 25 mg PO DAILY:PRN ADHD 
2. Amphetamine-Dextroamphetamine 10 mg PO DAILY:PRN ADHD 

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*20 Tablet Refills:*0 
2.  Amphetamine-Dextroamphetamine XR 25 mg PO DAILY:PRN ADHD  
3.  Amphetamine-Dextroamphetamine 10 mg PO DAILY:PRN ADHD  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Infectious mononucleosis 

 
Discharge Condition:
Stable
Discharge AMA

 
Discharge Instructions:
You came to the hospital for evaluation of feeling fatigued with 
associated nausea/vomiting, and swollen lymph nodes in the 
setting of recently being diagnosed with mono.

You were found to have elevated liver labs and high heart rates. 
You were given anti-nausea medications and fluids through the 
vein and you improved.

You were seen by the liver doctors who recommended additional 
lab tests, many of which were pending prior to discharge. It is 
important that you follow up in Dr. ___, MD 
___ doctor) office in ___ weeks for a follow up appointment 
and to repeat your liver labs and review the outstanding labs.

Please see the provided handout for additional information about 
mono. You can return to school when you are feeling better. You 
should not participate in contact or vigorous sport activities 
for AT LEAST ___ weeks of the illness.

If you develop worsening fevers, chills, yellowing of your skin, 
inability to keep down fluids please call your doctor or return 
to the emergency department. 

It was a pleasure taking care of you!

 
Followup Instructions:
___